US08080669B2
Preparation of 4-[2-(3,5-Dimethoxy-phenylamino)-oxazol-5-yl]-benzonitrile
The same procedure outlined above in the preparation of 4-[2-(5-Amino-2-methyl-phenylamino)-oxazol-5-yl]-benzonitrile was used. However N-(3,5-dimethoxyphenyl)-acetamide was used instead N-(5-amino-2-methyl-phenyl)-acetamide. Yield=85%.

reactant | 4-[2-(5-Amino-2-methyl-phenylamino)-oxazol-5-yl]-benzonitrile | NC=1C=CC(=C(C1)NC=1OC(=CN1)C1=CC=C(C#N)C=C1)C | C17H14N4O
reactant | N-(3,5-dimethoxyphenyl)-acetamide | COC=1C=C(C=C(C1)OC)NC(C)=O | C10H13NO3
reactant | N-(5-amino-2-methyl-phenyl)-acetamide | NC=1C=CC(=C(C1)NC(C)=O)C | C9H12N2O
product | 4-[2-(3,5-Dimethoxy-phenylamino)-oxazol-5-yl]-benzonitrile | Yield=85% | COC=1C=C(C=C(C1)OC)NC=1OC(=CN1)C1=CC=C(C#N)C=C1 | C18H15N3O3
